US07642361B2
4-Cyano-3-(2′-cyano-biphenyl-4-yl)-5-ethyl-thiophene-2-carboxylic acid ethyl ester
Prepare a solution of 4-cyano-5-ethyl-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-thiophene-2-carboxylic acid ethyl ester (0.26 mmol), 2-iodobenzonitrile (41 mg, 0.18 mmol), 2M aqueous Na2CO3 (0.6 mL, 1.2 mmol) and tetrakis(triphenylphosphine)-palladium(0) (20 mg, 0.02 mmol) in 3 mL of dioxane and heat to 80° C. under nitrogen. After 3 hours cool to room temperature, dilute with 50 mL of EtOAc and wash with water (2×10 mL) and brine (1×10 mL). Dry the organics over Na2SO4, filter and evaporate. Chromatograph on silica gel (100/0 to 3/1 toluene/EtOAc) to give the title compound as a yellow foam. Yield=61 mg (91%). HPLC=80%.

reactant | 4-cyano-5-ethyl-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-thiophene-2-carboxylic acid ethyl ester | 0.26 mmol | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C#N)CC | C22H26BNO4S
reactant | 2-iodobenzonitrile | 0.18 mmol, 41 mg | IC1=C(C#N)C=CC=C1 | C7H4IN
reactant | Na2CO3 | 1.2 mmol, 2M, 0.6 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.02 mmol, 20 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-Cyano-3-(2′-cyano-biphenyl-4-yl)-5-ethyl-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C#N)CC | C23H18N2O2S
